US08610345B2
Next, a mixed solution of 2.0 g of 9-(2-nitrophenyl)phenanthrene and 40 ml of triethyl phosphate was heated and stirred under a nitrogen gas stream at 150° C. for 8 hours. After cooling to room temperature, 50 ml of water was poured into the solution, followed by extraction with 50 ml of toluene. The organic layer was washed twice with 50 ml of water, dried over magnesium sulfate and then concentrated by evaporation. The concentrate was purified by silica gel chromatography and then vacuum-dried to obtain 840 mg of 13H-13-azaindeno[1,2-l]phenanthrene.

reactant | 9-(2-nitrophenyl)phenanthrene | 2.0 g | [N+](=O)([O-])C1=C(C=CC=C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1 | C20H13NO2
reactant | triethyl phosphate | 40 ml | P(=O)(OCC)(OCC)OCC | C6H15O4P
solvent | water | 50 ml | O | H2O
product | 13H-13-azaindeno[1,2-l]phenanthrene | 840 mg | C1=CC=CC=2C3=CC=CC=C3C3=C(C12)NC=1C=CC=CC13 | C20H13N
